US07498356B2
Under a nitrogen atmosphere, a solution of 1-(3-bromo-benzyl)-7-trifluoromethyl-1,2,3,4-tetrahydro-quinoline (2.36 g, 6.37 mmol), 4-(hydroxymethyl)phenyl boronic acid (1.07 g, 7.01 mmol), and 2 M Na2CO3 (7 mL, 12.7 mmol) in 16 mL of toluene and 4 mL ethanol (0.3 M) was treated with tetrakistriphenylphosphine palladium (Pd(Ph3)4) (0.37 g, 0.32 mmol) and heated to 80° C. for 2 hours. After cooling to room temperature the solution was extracted with ethyl acetate, dried over MgSO4, and concentrated. Purification by flash chromatography (30% ethyl acetate in heptane) provided [3′-(7-trifluoromethyl-3,4-dihydro-2H-quinolin-1-ylmethyl)-biphenyl-4-yl]-methanol. 1H NMR (CDCl3, 300 MHz) δ 7.49-7.32 (m, 6 H), 7.16-7.13 (m, 2 H), 6.95 (d, J=8.4 Hz, 1 H), 6.73-6.60 (m, 2 H), 4.66 (s, 2 H), 4.48 (s, 2 H), 3.30 (t, J=5.7 Hz, 2 H), 2.76 (t, J=6.3 Hz, 2 H), 1.98-1.90 (m, 2 H); ESI-LCMS m/z calcd for C24H22F3NO: 397.4; found 398.7 (M+1)+.

reactant | 1-(3-bromo-benzyl)-7-trifluoromethyl-1,2,3,4-tetrahydro-quinoline | 6.37 mmol, 2.36 g | BrC=1C=C(CN2CCCC3=CC=C(C=C23)C(F)(F)F)C=CC1 | C17H15BrF3N
reactant | 4-(hydroxymethyl)phenyl boronic acid | 7.01 mmol, 1.07 g | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | Na2CO3 | 12.7 mmol, 2 M, 7 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.3 M, 4 mL | C(C)O | C2H6O
product | [3′-(7-trifluoromethyl-3,4-dihydro-2H-quinolin-1-ylmethyl)-biphenyl-4-yl]-methanol | FC(C1=CC=C2CCCN(C2=C1)CC=1C=C(C=CC1)C1=CC=C(C=C1)CO)(F)F | C24H22F3NO
